*
R1 N002 N001 1.8k
R2 N003 N002 1.8k
C1 N002 0 10n
C2 N003 0 10n
X§U1 N003 N004 +12 -12 N004 ADTL082 ;§pnba In+)In-)V+)V-)OUT
V1 +12 0 12
V2 0 -12 12
C3 N005 N004 100n
C4 N006 N005 100n
R3 N005 0 15k
R4 N006 0 15k
V3 N001 0 AC 1
.ac dec 100 20 100k
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\lucca\AppData\Local\LTspice\lib\sym\OpAmps\ADTL082.asy)
.lib ADI.lib
.backanno
.end
